US06432881B1
Step d: {2-chloro-3-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylphenyl}{5,5-dimethyl-1,3-dioxo-cyclohex-2-yl}methanone
1.0 g (2.9 mmol) of 2-chloro-3-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonyl benzoic acid, 0.4 g (2.9 mmol) of dimedone and 0.72 g of N,N-dicyclohexylcarbodiimide in 50 ml of acetonitrile are heated at 40° C. for 4 h. After the reaction mixture has been stirred for 12 h at room temperature, 0.87 g of triethylamine and 0.57 g of trimethylsilylnitrile are added. Afterwards the reaction mixture is heated at 40° C. for 6 h, filtered, freed from the solvent under reduced pressure and the residue is purified over silica gel (eluent: toluene/tetrahydrofurane/acetic acid: 100/0/0→4/1/0.1). Yield: 0.25 g; m.p.82° C.

reactant | 2-chloro-3-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonyl benzoic acid | 2.9 mmol, 1.0 g | ClC1=C(C(=O)O)C=CC(=C1COC1=CC=NN1C)S(=O)(=O)C | C13H13ClN2O5S
reactant | dimedone | 2.9 mmol, 0.4 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | triethylamine | 0.87 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | {2-chloro-3-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylphenyl}{5,5-dimethyl-1,3-dioxo-cyclohex-2-yl}methanone | ClC1=C(C=CC(=C1COC1=CC=NN1C)S(=O)(=O)C)C(=O)C1C(CC(CC1=O)(C)C)=O | C21H23ClN2O6S
